US04898943
5-(2-Cyclohexylethyl)-1,3,4-thiadiazol-2-amine
3-Cyclohexylpropionitrile (181 g) and 120 g of thiosemicarbazide were dissolved in 40 ml of trifluoroacetic acid, followed by stirring at a bath temperature of 70° to 80° C. for 4 hours. The reaction mixture was poured into ice-water, and 500 ml of concentrated aqueous ammonia was added thereto, followed by stirring at room temperature for 1.5 hours. The resulting precipitate was collected by filtration and washed with successive, small amounts of ethanol and diethyl ether to obtain 197 g of the titled compound.

reactant | 3-Cyclohexylpropionitrile | 181 g | C1(CCCCC1)CCC#N | C9H15N
reactant | thiosemicarbazide | 120 g | NNC(=S)N | CH5N3S
reactant | ammonia | 500 ml | N | H3N
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-Cyclohexylethyl)-1,3,4-thiadiazol-2-amine | 197 g | C1(CCCCC1)CCC1=NN=C(S1)N | C10H17N3S
